data/oMe_Silver.jsonl
{"reaction_id": "NR-120_1-C1CCCCC1_2-c1ccc(F)cc1_3-CC=C(C)C","name": "Julia-Kociensky Olefination","level": "medium","reactants_smiles": ["C(C1CCCCC1)(c1ccc(F)cc1)S(=O)(=O)c1sc2ccccc2n1","C(CC=C(C)C)=O"],"products_smiles": ["C(CC=C(C)C)=C(C1CCCCC1)c1ccc(F)cc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C1CCCCC1)(c1ccc(F)cc1)S(=O)(=O)c1sc2ccccc2n1","rationale": "The strong base deprotonates the α-position to the sulfone, as the negative charge is stabilized by resonance with the electron-withdrawing sulfone group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC=C(C)C)([O-])C(C1CCCCC1)(c1ccc(F)cc1)S(=O)(=O)c1sc2ccccc2n1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, favored by polarization of the C=O bond and minimal steric hindrance from CC=C(C)C."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=C2C(=C1)[N-]C3(S2)[S](=O)(c(C(O3)(CC=C(C)C))(C1CCCCC1)c1ccc(F)cc1)=O","rationale": "Intramolecular attack by the alkoxide on the heteroaryl ring occurs due to proximity and the electrophilicity of the activated heteroaryl sulfur, forming a cyclic intermediate."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "c1ccc2c(c1)n=c(s2)OC(CC=C(C)C)C(C1CCCCC1)(c1ccc(F)cc1)[S](=O)[O-]","rationale": "Heterolytic cleavage of the S–C bond is driven by the stability of the leaving heteroaryl sulfinate anion and relief of ring strain."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC=C(C)C)=C(C1CCCCC1)c1ccc(F)cc1","rationale": "Base-induced elimination occurs as the β-alkoxy group departs with the sulfinate, forming the thermodynamically favored alkene."}],"description": "Under basic conditions, the sulfone-stabilized carbanion adds to the carbonyl, forming a β-alkoxysulfone intermediate. Subsequent intramolecular rearrangement and fragmentation release the heteroaryl sulfone, driving elimination to yield the alkene via the Julia–Kocienski olefination pathway."}
{"reaction_id": "NR-001_1-C(F)(F)F_2-CC1(C)CCCC1","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(C(F)(F)F)(CC1(C)CCCC1)C=O","C(C(F)(F)F)(CC1(C)CCCC1)C=O"],"products_smiles": ["C(C(F)(F)F)(CC1(C)CCCC1)C(O)C(C(F)(F)F)(CC1(C)CCCC1)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(CC1(C)CCCC1)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(F)(F)F)(CC1(C)CCCC1)C([O-])C(C(F)(F)F)(CC1(C)CCCC1)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(CC1(C)CCCC1)C(O)C(C(F)(F)F)(CC1(C)CCCC1)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
